US04220795
B-6 Preparation of 8-oxononan-1-ol
A solution containing 56.6 g of 8-oxononan-1-ol ethylene ketol (prepared in Example 22 B-5) in 210 ml acetone and 50 mg p-toluenesulfonic acid monohydrate was stirred at room temperature for about 15 to 17 hr. The acetone was removed in vacuo to yield the title compound having the following physical characteristics:

reactant | p-toluenesulfonic acid monohydrate | 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | acetone | 210 ml | CC(=O)C | C3H6O
product | 8-oxononan-1-ol | O=C(CCCCCCCO)C | C9H18O2
